US06046201
N-(12-Iodododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
A solution of 2.09 g of N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide in 57% hydriodic acid was stirred at 120° C. for 30 minutes. The reaction solution was diluted with water and extracted with chloroform. The chloroform layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue thus obtained was chromatographed over a silica gel column to afford 1.94 g of the title compound.

reactant | N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 2.09 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
reactant | hydriodic acid | I | HI
solvent | water | O | H2O
product | N-(12-Iodododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 1.94 g | ICCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H41IN4O
